US06015930
In Example 1, a hydrocarbon feed of 5:1 (wt:wt) o-xylene: 1,5-dimethylnaphthalene was hydrogenated in a reactor with a PtS/Boron-SSZ-33 catalyst (0.5 g) at 400° F. and 200 psig. The hydrogenation products including the solvent o-xylene were collected and then dehydrogenated by being fed to PtS/Na-ZSM-5 in a reactor at 850° F., 100 psig, 0.5 ml/hr feed, 23 ml/min H2 and 0.5 g catalyst. The feed (hydrogenation products of 1,5-DMN) is shown in chromatographic form in FIG. 15b in comparison to 1,5-DMN (used as feed for hydrogenation in Example 1) in FIG. 15a. The result of the dehydrogenation is shown in chromatographic form in FIG. 15c. As described in Example 1, in the hydrogenation step, 96% of 1,5-DMN was converted, yielding 88% 1,5-DMT and 8% DMD's and other C12's. No other DMT isomers were observed. In the dehydrogenation step of this example, the resulting dehydrogenation product has the following composition: ~0% DMD's and other C12's, 0.9% 1,5-DMT, 1.3% other DMT's, 96.5% 1,5-DMN, 1.3% 1,6/1,7-DMN. No MN's were detected. The detailed GC peak identification is demonstrated in FIGS. 1a, 1b, 2a, 2b, 3a, 3b, 4a, 4b, 5a, 5b, 10a and 10b. Since PtS/Na-ZSM-5 works for the "bulky" 1,5-isomers as demonstrated in this example, this catalyst apparently also works for the dehydrogenation of other DMN isomers.

reactant | 1,5-dimethylnaphthalene | CC1=CC=CC2=C(C=CC=C12)C | C12H12
reactant | 1,5-DMN | CC1=CC=CC2=C1C=CC=C2C | C12H12
solvent | o-xylene | CC=1C=CC=CC1C | C8H10
product | 1,5-DMT | 88% | CC1CCCC2=C1C=CC=C2C | C12H16
